US06476016B2
3. 3-(2-4-Tolylethylamino)-5-chloro-6-methyl-1-(benzyloxycarbonylmethyl) pyrazinone
A solution of 1-benzyloxycarbonylmethyl-3,5-dichloro-6-methylpyrazinone (656 mg, 2.00 mmol), as prepared in the preceding step, 4-methylphenethylamine (380 mg, 2.81 mmol), triethylamine (405 mg, 4.01 mmol), and ethyl acetate (20 mL) was refluxed overnight. After cooling to room temperature, the solution was washed with 10% citric acid (×2). The aqueous solutions were back extracted with dichloromethane. The combined organic layers were dried (Na2SO4) and contracted to give the title compound as a yellow solid (854 mg, 100%). 1H NMR (CDCl3) δ 7.38-7.32 (m, 5H), 7.12 (s, 4H), 6.09 (s, 1H), 5.21 (s, 2H), 4.79 (s, 2H), 3.65 (dd, 2H, J=7.0, 13.0 Hz), 2.88 (t, 2H, J=7.1 Hz), 2.32 (s, 3H), 2.21 (s, 3H).

reactant | 1-benzyloxycarbonylmethyl-3,5-dichloro-6-methylpyrazinone | 2.00 mmol, 656 mg | C(C1=CC=CC=C1)OC(=O)CN1C(C(=NC(=C1C)Cl)Cl)=O | C14H12Cl2N2O3
reactant | 4-methylphenethylamine | 2.81 mmol, 380 mg | CC1=CC=C(CCN)C=C1 | C9H13N
reactant | triethylamine | 4.01 mmol, 405 mg | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 3-(2-4-Tolylethylamino)-5-chloro-6-methyl-1-(benzyloxycarbonylmethyl) pyrazinone | 854 mg, 100% | C1(=CC=C(C=C1)CCNC=1C(N(C(=C(N1)Cl)C)CC(=O)OCC1=CC=CC=C1)=O)C | C23H24ClN3O3
